US04547218
Preparation of ethyl 2-(6-chloro-3-nitro-2-pyridinyl)oxypropanoate
A mixture of 8.8 grams of 3-nitro-6-chloro-2-pyridinol, 9 grams of ethyl α-bromopropionate and 6 grams of potassium carbonate was stirred in 50 ml of DMSO (dimethylsulfoxide) at ambient temperature for approximately 48 hours.

reactant | 3-nitro-6-chloro-2-pyridinol | 8.8 grams | [N+](=O)([O-])C=1C(=NC(=CC1)Cl)O | C5H3ClN2O3
reactant | ethyl α-bromopropionate | 9 grams | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 6 grams | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | ethyl 2-(6-chloro-3-nitro-2-pyridinyl)oxypropanoate | ClC1=CC=C(C(=N1)OC(C(=O)OCC)C)[N+](=O)[O-] | C10H11ClN2O5
